US08183279B2
Analogous reaction of “A10a” with piperazin-2-one via 2,4-bisbenzyloxy-N-butyl-N-methyl-5-{5-[2-(3-oxopiperazin-1-yl)ethoxy]-1,3-dihydroisoindole-2-carbonyl}benzamide gives the compound N-butyl-N-methyl-5-{5-[2-(3-oxopiperazin-1-yl)ethoxy]-1,3-dihydroisoindole-2-carbonyl}benzamide (“A15”)

reactant | piperazin-2-one | N1C(CNCC1)=O | C4H8N2O
reactant | 2,4-bisbenzyloxy-N-butyl-N-methyl-5-{5-[2-(3-oxopiperazin-1-yl)ethoxy]-1,3-dihydroisoindole-2-carbonyl}benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N(C)CCCC)C=C(C(=C1)OCC1=CC=CC=C1)C(=O)N1CC2=CC=C(C=C2C1)OCCN1CC(NCC1)=O | C41H46N4O6
product | N-butyl-N-methyl-5-{5-[2-(3-oxopiperazin-1-yl)ethoxy]-1,3-dihydroisoindole-2-carbonyl}benzamide | C(CCC)N(C(C1=CC=CC(=C1)C(=O)N1CC2=CC=C(C=C2C1)OCCN1CC(NCC1)=O)=O)C | C27H34N4O4
